US07642264B2
2-(6-Bromo-pyridin-2-yl)-4-trifluoromethyl-6-(4-trifluoromethyl-phenyl)-pyrimidine
The title compound was prepared from 2-iodo-4-trifluoromethyl-6-(4-trifluoromethylphenyl)-pyrimidine (example A.4) (0.900 g, 2.15 mmol), n-BuLi/ZnBr2 and commercially available 2,6-dibromopyridine (0.510 g, 2.15 mmol) according to Tetrahedron Letters 1996, 37(15), 2537 and the general procedure IVc protocol b. Obtained as a yellow oil (0.658 g, 60%, 88% purity). MS (ISP) 447.8 [(M+H)+] and 450.0 [(M+2+H)+].

reactant | 2-iodo-4-trifluoromethyl-6-(4-trifluoromethylphenyl)-pyrimidine | 2.15 mmol, 0.900 g | IC1=NC(=CC(=N1)C(F)(F)F)C1=CC=C(C=C1)C(F)(F)F | C12H5F6IN2
reactant | 2,6-dibromopyridine | 2.15 mmol, 0.510 g | BrC1=NC(=CC=C1)Br | C5H3Br2N
catalyst | n-BuLi ZnBr2 | [Li]CCCC.[Zn+2].[Br-].[Br-]
product | 2-(6-Bromo-pyridin-2-yl)-4-trifluoromethyl-6-(4-trifluoromethyl-phenyl)-pyrimidine | BrC1=CC=CC(=N1)C1=NC(=CC(=N1)C(F)(F)F)C1=CC=C(C=C1)C(F)(F)F | C17H8BrF6N3
